US04115641
A suspension of 6 g. of dimethyl imidazole-4,5-dicarboxylate in 30 ml. of hexamethyldisilazane and 0.5 ml. of trimethylchlorosilane is boiled under reflux for 2 days. The solution obtained is evaporated to dryness and the residue distilled at 150° C./0.08 Torr. 7.8 G. of dimethyl 1-(trimethylsilyl)-imidazole-4,5-dicarboxylate are obtained.

reactant | dimethyl imidazole-4,5-dicarboxylate | N1C=NC(=C1C(=O)OC)C(=O)OC | C7H8N2O4
reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
product | dimethyl 1-(trimethylsilyl)-imidazole-4,5-dicarboxylate | C[Si](N1C=NC(=C1C(=O)OC)C(=O)OC)(C)C | C10H16N2O4Si
